* Auto TB for swcap
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
** sch_path: /home/chandru/Tools/OpenFASOC/generators/lc-dco/xschem_rundir/swcap.sch
.subckt swcap outn outp sw GND
*.opin outn
*.opin outp
*.ipin sw
*.iopin GND
XM1 net1 sw net2 GND sky130_fd_pr__nfet_01v8_lvt L=Lsw W=Wsw nf=nsw ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 GND sw net1 GND sky130_fd_pr__nfet_01v8_lvt L=Wpd W=Wpd nf=npd ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 sw GND GND sky130_fd_pr__nfet_01v8_lvt L=Lpd W=Wpd nf=npd ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XC1 outn net2 sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=Mc m=Mc
XC2 net1 outp sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=Mc m=Mc
.ends


Vdd outn 0 DC 1.8
Vss GND 0 DC 0
X1 outn outp sw GND swcap
.op
.control
op
.endc
.end
